US05610141
c) (S, S)-2,7-Diamino-(E)-oct-4-ene-1,8-dioic acid dihydrochloride
(S,S)-2,7-Diamino-(E)-oct-4-ene-1,8-dioic acid dimethyl ester (1.65 g, 7.17 mmol) was heated under reflux with 6H HCl (10 ml, 60 mmol) for 2 hours. The solvent was then evaporated, the residue was dissolved in water (10 ml) and ethanol was added (100 ml). The white crystals were filtered off and dried in vacuum at 40° C.

reactant | (S,S)-2,7-Diamino-(E)-oct-4-ene-1,8-dioic acid dimethyl ester | 7.17 mmol, 1.65 g | COC([C@H](C\C=C\C[C@@H](C(=O)OC)N)N)=O | C10H18N2O4
reactant | HCl | 60 mmol, 10 ml | Cl | ClH
product | (S, S)-2,7-Diamino-(E)-oct-4-ene-1,8-dioic acid dihydrochloride | Cl.Cl.N[C@H](C(=O)O)C\C=C\C[C@@H](C(=O)O)N | InChI=1S/C8H14N2O4.2ClH/c9-5(7(11)12)3-1-2-4-6(10)8(13)14;;/h1-2,5-6H,3-4,9-10H2,(H,11,12)(H,13,14);2*1H/b2-1+;;/t5-,6-;;/m0../s1
